US07691882B2
1-Bromo-4-((E)-2-nitro-vinyl)-benzene
A mixture of 4-bromobenzaldehyde (16.8 g, 91 mmol), nitromethane (24.6 mL, 455 mmol), ammonium acetate (14 g, 182 mmol), and acetic acid (160 mL) was stirred for 4 hours at 100° C. This mixture was cooled to room temperature and poured into water. The precipitate thus produced was collected, washed with water, and dried under a reduced pressure to obtain the title compound (17.4 g). The title compound was used in the following reaction without any further purification.

reactant | 4-bromobenzaldehyde | 91 mmol, 16.8 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | nitromethane | 455 mmol, 24.6 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 182 mmol, 14 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 160 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-Bromo-4-((E)-2-nitro-vinyl)-benzene | 17.4 g | BrC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C8H6BrNO2
